US08877975B2
To a solution of 6-fluoro-naphthalene-2-carboxylic acid (3.0 g, 15.8 mmol) was added BH3.THF (31.6 mL, 31.6 mmol). The reaction mixture was stirred overnight before being concentrated. To the residue was added diethyl ether (100 mL) and NaOH solution (10 mL). The organic layer was separated, dried and concentrated. The resultant residue was purified by silica gel column chromatography (ethyl acetate/hexane 1:7) to afford (6-fluoro-naphthalen-2-yl)-methanol (2.28 g, 82%).

reactant | 6-fluoro-naphthalene-2-carboxylic acid | 15.8 mmol, 3.0 g | FC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7FO2
reactant | BH3.THF | 31.6 mmol, 31.6 mL | B.C1CCOC1
product | (6-fluoro-naphthalen-2-yl)-methanol | 2.28 g, 82% | FC=1C=C2C=CC(=CC2=CC1)CO | C11H9FO
